US06057369
A mixture of 2 g (12.53 mmol) of 4-phenylbut-2-enoic acid, 1.8 mL (14.8 mmol) of 4-methoxybenzenethiol, and 0.4 mL (3.7 mmol) of piperidine is heated at 110° C. in a bomb for 18 hours. The reaction is partitioned between ethyl ether and 1N HCl. The organic layer is dried over anhydrous MgSO4 and concentrated in vacuo. Purification by flash silica gel chromatography affords 3.07 g (82%) of 3-(4-methoxyphenylsulfanyl)-4-phenylbutyric acid as a white crystalline solid.

reactant | 4-phenylbut-2-enoic acid | 12.53 mmol, 2 g | C1(=CC=CC=C1)CC=CC(=O)O | C10H10O2
reactant | 4-methoxybenzenethiol | 14.8 mmol, 1.8 mL | COC1=CC=C(C=C1)S | C7H8OS
reactant | piperidine | 3.7 mmol, 0.4 mL | N1CCCCC1 | C5H11N
product | 3-(4-methoxyphenylsulfanyl)-4-phenylbutyric acid | 3.07 g, 82% | COC1=CC=C(C=C1)SC(CC(=O)O)CC1=CC=CC=C1 | C17H18O3S
